US08492395B2
A mixture of 2-amino-5-methylbenzoic acid (1.0 g, 6.6 mmol) and CDI (1.0 g, 6.1 mmol) in acetonitrile (15 mL) was stirred at room temperature for 1.5 hours. To the suspension, was added 3-amino-piperidine-2,6-dione hydrogen chloride (1.0 g, 6.1 mmol) and sodium hydrogen carbonate (0.45 g, 3.6 mmol), and the mixture was heated at 50° C. for 21 hours. The suspension was cooled to room temperature for 1 hour. The suspension was filtered and washed with acetonitrile (20 mL), water (2×20 mL) and ethyl acetate (20 mL) to give 2-amino-N-(2,6-dioxo-piperidin-3-yl)-5-methyl-benzamide as a blue solid (1.1 g, 63% yield): 1H NMR (DMSO-d6) δ 1.91-1.98 (m, 1H, CHH), 2.05-2.14 (m, 1H, CHH), 2.17 (s, 3H, CH3), 2.50-2.56 (m, 1H, CHH), 2.73-2.85 (m, 1H, CHH), 4.69-4.77 (m, 1H, NCH), 6.20 (br, 2H, NH2), 6.63 (d, J=9 Hz, 1H, Ar), 7.00 (dd, J=2, 8 Hz, 1H, Ar), 7.34 (d, J=2 Hz, 1H, Ar), 8.43 (d, J=8 Hz, 1H, NH), 10.84 (s, 1H, NH); 13C NMR (DMSO-d6) δ 19.89, 24.13, 30.92, 48.93, 113.87, 116.48, 122.81, 127.87, 132.72, 147.40, 168.55, 172.40, 172.97.

reactant | 2-amino-5-methylbenzoic acid | 6.6 mmol, 1.0 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | CDI | 6.1 mmol, 1.0 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 6.1 mmol, 1.0 g | Cl.NC1C(NC(CC1)=O)=O
reactant | sodium hydrogen carbonate | 3.6 mmol, 0.45 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-5-methyl-benzamide | 1.1 g, 63% yield | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C=C(C=C1)C | C13H15N3O3
